US07153857B2
To a stirred solution of tert-butyl 4-(5-iodopyridin-2-yl)piperazine-1-carboxylate (4.087 g, 10.5 mmol) in DMA (75 mL) at RT was added 2-ethynylpyridine, (CAS number 1945-84-2, 1.17 mL, 11.5 mmol), triethylamine (4.4 mL, 31.5 mmol), CuI (800 mg, 4.2 mmol) and Pd(PPh3)4 (1.21 g, 1.05 mmol). After stirring for 30 minutes, the DMA was removed in vacuo, and the residue diluted with EtOAc (100 mL). The dark solution was then washed with water (100 mL). The layers were separated and the aqueous phase extracted with EtOAc (3×50 mL). The combined organic extracts were then dried, (MgSO4), filtered and concentrated in vacuo. The residue was then purified by flash chromatography (silica gel, 50% EtOAc in hexanes) to give tert-butyl 4-[5-(pyridin-2-ylethynyl)pyridin-2-yl]piperazine-1-carboxylate as a brown oil (3.8 g, 10.5 mmol, 99%).

reactant | tert-butyl 4-(5-iodopyridin-2-yl)piperazine-1-carboxylate | 10.5 mmol, 4.087 g | IC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H20IN3O2
reactant | 2-ethynylpyridine | 11.5 mmol, 1.17 mL | C(#C)C1=NC=CC=C1 | C7H5N
reactant | triethylamine | 31.5 mmol, 4.4 mL | C(C)N(CC)CC | C6H15N
solvent | DMA | 75 mL | CC(=O)N(C)C | C4H9NO
catalyst | CuI | 4.2 mmol, 800 mg | [Cu]I
catalyst | Pd(PPh3)4 | 1.05 mmol, 1.21 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-[5-(pyridin-2-ylethynyl)pyridin-2-yl]piperazine-1-carboxylate | 10.5 mmol, 3.8 g, 99% | N1=C(C=CC=C1)C#CC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C21H24N4O2
